data/oMe_Silver.jsonl
{"reaction_id": "NR-319_1-C_2-CC_3-c1ccc(C)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(C)C1(CC)OC1(c1ccc(C)cc1)c1ccc(OC)cc1","NN"],"products_smiles": ["[CH](=C(CC)C(O)(c1ccc(C)cc1)c1ccc(OC)cc1)C"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(C)C1(CC)OC1(c1ccc(C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(C)=C(CC)C(O)(c1ccc(C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(C)=C(CC)C(O)(c1ccc(C)cc1)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(CC)C(O)(c1ccc(C)cc1)c1ccc(OC)cc1)C","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(CC)C(O)(c1ccc(C)cc1)c1ccc(OC)cc1)C","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
{"reaction_id": "NR-127_1-CCCC(C)C_2-C(C)(C)C_3-CCCC(C)C","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(CCCC(C)C)(C(C)(C)C)(CCCC(C)C)C(=O)OC"],"products_smiles": ["C(CCCC(C)C)(C(C)(C)C)(CCCC(C)C)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CCCC(C)C)(C(C)(C)C)(CCCC(C)C)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](CCCC(C)C)(C(C)(C)C)(CCCC(C)C)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)(C(C)(C)C)(CCCC(C)C)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
